US07648998B2
To a suspension of 2-(2-fluorophenyl)-3H-imidazo[4,5-c]pyridine (11.0 g, 50.0 mmoles) in DMF was added a 10% (w/v) solution of aqueous NaOH. To this solution, 5-(chloromethyl)-3-(4-chlorophenyl)isoxazole (13.68 g, 60.0 mmoles) dissolved in DMF was added. The reaction mixture was stirred at room temperature and monitored every half hour by LCMS. The reaction was stopped at 4 hours, after LCMS showed no progress between at 2 hour and 4 hour monitor points. The reaction product was triturated with first with water and then with EtoAc (3×). The material was crystallized by dissolving the material in MeOH with heat, followed by precipitation with water. This crystallization process was then repeated yielding 5-((3-(4-chlorophenyl)isoxazol-5-yl)methyl)-2-(2-fluorophenyl)-5H-imdazo[4,5-c]pyridine (15.385 g, 38 mmole) as white crystal at a yield of 74%. 1H 300 Mhz (d6-DMSO) sigma 6.02 (s, 2p); 7.13 (s, 1p); 7.26-7.35 (m, 2p); 7.43-7.52 (m, 1p); 7.56 (d, 2p); 7.84 (d, 1); 7.89 (d, 2p); 8.24 (d, 1); 8.28-8.36 (m, 1p); and 9.19 (s, 1p). LCMS data M/Z=405.31

reactant | 2-(2-fluorophenyl)-3H-imidazo[4,5-c]pyridine | 50.0 mmoles, 11.0 g | FC1=C(C=CC=C1)C1=NC2=C(C=NC=C2)N1 | C12H8FN3
reactant | NaOH | [OH-].[Na+]
reactant | 5-(chloromethyl)-3-(4-chlorophenyl)isoxazole | 60.0 mmoles, 13.68 g | ClCC1=CC(=NO1)C1=CC=C(C=C1)Cl | C10H7Cl2NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-((3-(4-chlorophenyl)isoxazol-5-yl)methyl)-2-(2-fluorophenyl)-5H-imdazo[4,5-c]pyridine | 38 mmole, 15.385 g, yield of 74% | ClC1=CC=C(C=C1)C1=NOC(=C1)CN1C=C2C(C=C1)=NC(=N2)C2=C(C=CC=C2)F | C22H14ClFN4O
